US04450173
A solution of 9.2 gm (50 mmol) of 4-chloro-1-(2,3-epoxypropoxy)benzene and 5.5 mL (50 mmol) of benzylamine in 125 mL of ethanol was heated to reflux for 4 hours (a 10 mL aliquot was then treated with concentrated HCl and ether to provide an analytical sample of the intermediate secondary benzylamine hydrochloride as a white crystalline product: mp 169°-170° C.). After cooling the reaction mixture, 6 mL (47 mmol) of ethyl 3-bromopropionate and 6.5 mL (47 mmol) of triethylamine were added and the mixture heated to reflux for another 10 hours. The reaction medium was then evaporated and the residue taken up in 50 mL toluene--50 mL water. The organic phase was washed an additional two timeswith 50 mL portions of water and then dried over MgSO4 and evaporated to provide the Ethyl 3-[N-benzyl-N-[3-[(4-chlorophenoxy)-2-hydroxy]propyl]amino]propionate intermediate as an oil which was characterized by NMR spectroscopy. This oil was used directly in the next reaction by redissolving it in 100 mL ofethanol, adding 7 mL (100 mmol) of acetyl chloride, 100 mg of 10% Pd-C and hydrogenating under 50 psi for 20 minutes. The reaction medium was then filtered and evaporated under reduced pressure to provide the product as an oil which yielded 6.5 gm (41% overall yield) of white crystals from ethanol-ether: mp 119°-120° C. The NMR spectrum and elemental analysis were consistent with the assigned structure.

reactant | 4-chloro-1-(2,3-epoxypropoxy)benzene | 50 mmol, 9.2 gm | ClC1=CC=C(C=C1)OCC1CO1 | C9H9ClO2
reactant | benzylamine | 50 mmol, 5.5 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | HCl | Cl | ClH
reactant | ether | CCOCC | C4H10O
solvent | ethanol | 125 mL | C(C)O | C2H6O
product | benzylamine hydrochloride | Cl.C(C1=CC=CC=C1)N | InChI=1S/C7H9N.ClH/c8-6-7-4-2-1-3-5-7;/h1-5H,6,8H2;1H
